US07157488B2
3-(2-Nitroethyl)-6-ethoxycarbonyl-1H-indole
Combine 3-(2-nitrovinyl)-6-ethoxycarbonyl-1H-indole (4.0 g, 15.37 mmol) and NaBH4 (726.7 mg, 19.21 mmol) in 100 ml of THF/Methanol (9:1) and stir at ambient temperature. After 1.5 hours, concentrate to residue. Partition the residue between brine and ethyl acetate, wash with brine, combine the organic layers, dry (Na2SO4), then evaporate to give the title compound as a yellow powder: mp 124–127° C. MS (ACPI): m/e 263.0 (M+1). Analysis for C13H14N2O4: Calcd: C, 59.54; H, 5.38; N, 10.68; found: C, 59.40; H, 5.36; N, 10.53.

reactant | 3-(2-nitrovinyl)-6-ethoxycarbonyl-1H-indole | 15.37 mmol, 4.0 g | [N+](=O)([O-])C=CC1=CNC2=CC(=CC=C12)C(=O)OCC | C13H12N2O4
reactant | NaBH4 | 19.21 mmol, 726.7 mg | [BH4-].[Na+]
solvent | THF Methanol | 100 ml | C1CCOC1.CO
product | 3-(2-Nitroethyl)-6-ethoxycarbonyl-1H-indole | [N+](=O)([O-])CCC1=CNC2=CC(=CC=C12)C(=O)OCC | C13H14N2O4
